US04728739
5-[[4-[(1-methyl-2-methoxyiminocyclohexyl)methoxy]phenyl]methyl]-2,4-thiazolidinedione
A mixture of 5-[[4-[(1-methyl-2-oxocyclohexyl)methoxy]phenyl]methyl]-2,4-thiazolidinedione (3 g), sodium acetate (0.78 g) and O-methylhydroxylamine hydrochloride (0.66 g) were suspended in ethanol (200 mL) and refluxed overnight. The reaction mixture was concentrated in vacuo and the residue dissolved in ethyl acetate and dried over MgSO4. Filtration and concentration left 3.25 g of yellow oil which was purified by high pressure liquid chromatography. The product, 2.21 g of yellow oil, was dissolved in ethanol (100 mL) and stirred overnight at room temperature with KOH (0.35 g). The solvent was removed using a rotary evaporator, ethyl acetate was added, and the product was dried over Na2SO4. After filtration and concentration, the product was dried overnight under vacuum at room temperature to give 1.79 g of thepotassium salt of the title compound as a white solid, which fuses at 135°-138° C.

reactant | 5-[[4-[(1-methyl-2-oxocyclohexyl)methoxy]phenyl]methyl]-2,4-thiazolidinedione | 3 g | CC1(C(CCCC1)=O)COC1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C18H21NO4S
reactant | sodium acetate | 0.78 g | C(C)(=O)[O-].[Na+]
reactant | O-methylhydroxylamine hydrochloride | 0.66 g | Cl.CON
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5-[[4-[(1-methyl-2-methoxyiminocyclohexyl)methoxy]phenyl]methyl]-2,4-thiazolidinedione | CC1(C(CCCC1)=NOC)COC1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C19H24N2O4S
